US08895736B1
Synthesis of 2,6,9-Tribenzyl-4,8-dinitro-2,6,9-triaza-bicyclo[3.3.1]nona-3,7-diene (BC1)
A yellow-orange suspension of sodium nitromalonaldehyde monohydrate (63 mg, 0.40 mmol) in methanol (760 uL), water (32 uL) and 96% formic acid (3.2 uL, 0.084 mmol) was stirred at room-temperature and benzylamine (91.7 uL, 0.84 mmol) was added dropwise over a 5 min period during which the reaction solids dissolved, subsequently the crude product then quickly crystallized. The orange reaction mixture was stirred about 2 days at room-temperature. Filtration gave a yellow powder (63 mg) of which 59 mg was recrystallized from absolute ethanol (˜10 mL) yielding 25 mg (26%) of the title compound BC1 as a yellow, microcrystalline solid: mp 184-185° C.; HRMS calcd for C27H26N5O4 (M+H+) 484.1985, obsd 484.18924; 1H NMR (300 MHz, DMSO-d6) δ 3.004 (s, 2H), 4.789-5.002 (q, 4H), 5.350 (s, 2H), 6.631-6.659 (d, 2H), 7.035-7.136 (m, 3H), 7.36-7.37 (br s, 10H), 8.800 (s, 2H); 1H NMR (300 MHz, CDCl3) δ 2.948, 2.955 (d, 2H), 4.581, 4.630 (d, 2H), 4.974, 5.023 (d, 2H), 5.308 (s, 2H), 6.714, 6.737 (d, 2H), 7.090, 7.116, 7.170-7.20 (m, 3H), 7.289, 7.298, 7.310, 7.321, 7.335, 7.342, 7.353, 7.363, 7.375 (complex m, 10H), 8.358 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 145.704, 135.410, 135.380, 128.787, 128.382, 128.199, 127.879, 127.230, 120.561, 64.383, 57.309, 52.166; Anal. Calcd for C27H25N5O4 (483.52): C, 67.07; H, 5.21; N, 14.48. Found: C, 66.80; H, 5.13; N, 14.45.

reactant | sodium nitromalonaldehyde monohydrate | 0.40 mmol, 63 mg | O.[N+](=O)([O-])C(C=O)C=O.[Na]
reactant | formic acid | 0.084 mmol, 3.2 uL | C(=O)O | CH2O2
reactant | benzylamine | 0.84 mmol, 91.7 uL | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 760 uL | CO | CH4O
solvent | water | 32 uL | O | H2O
product | 2,6,9-Tribenzyl-4,8-dinitro-2,6,9-triaza-bicyclo[3.3.1]nona-3,7-diene | 63 mg | C(C1=CC=CC=C1)N1C2C(=CN(C(C(=C1)[N+](=O)[O-])N2CC2=CC=CC=C2)CC2=CC=CC=C2)[N+](=O)[O-] | C27H25N5O4
